US06159971
(R)-N-[5-Bromo-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-trifluoromethylbenzamide
(R)-N-[8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-trifluoromethylbenzamide (80 mg, 0.19 mmol) and sodium acetate (200 mg) were dissolved in acetic acid (3 mL) and the mixture was stirred at room temperature. Bromine (34 mg, 0.21 mmol) was added dropwise to the reaction mixture and the mixture was stirred for 2 h at ambient temperature. A 2 M sodium hydroxide solution (100 mL) was added and the mixture was extracted with diethyl ether (2×50 mL). The combined organic phases were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification on a silica gel column using methylene chloride/ethanol saturated with NH3 (94:6) as the eluent gave 80 mg (85% yield) of the title compound as a white solid: mp 229-230° C.; [α]21D -5.4° (c=1, chloroform); EIMS (70 eV) m/z (relative intensity) 495 and 497 (3, M+).

reactant | (R)-N-[8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-trifluoromethylbenzamide | 0.19 mmol, 80 mg | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C23H26F3N3O
reactant | sodium acetate | 200 mg | C(C)(=O)[O-].[Na+]
reactant | Bromine | 0.21 mmol, 34 mg | BrBr | Br2
reactant | sodium hydroxide | 2 M, 100 mL | [OH-].[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | (R)-N-[5-Bromo-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-trifluoromethylbenzamide | 80 mg, 85% yield | BrC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C23H25BrF3N3O
